US06150379
A mixture comprising 2-bromo-5-nitropyridine (5.6 g, 27.7 mmol), cuprous cyanide (2.5 g, 27.4 mmol) and DMF (5 mL) was heated at 105° C. for 2.5 hours, cooled and diluted with methylene chloride (200 mL). The mixture was stirred 20 minutes, filtered and concentrated under reduced pressure. The residue was dissolved in methylene chloride and the solution was washed sequentially with 2N sodium hydroxide (150 mL), 7M ammonium hydroxide (150 mL) and water (150 mL), dried (MgSO4), filtered and concentrated under reduced pressure to provide 5-nitropyridine-2-carbonitrile (3.14 g, 21 mmol) as a yellow oil. 1H-NMR (300 Mhz, DMSO-d6): 8.4 (d, 1H), 8.8 (d, 1H), 9.5 (s, 1H); MS (EI); Calculated for C6H3N3O2, 149.1, Found (MH+): 149.

reactant | 2-bromo-5-nitropyridine | 27.7 mmol, 5.6 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-nitropyridine-2-carbonitrile | 21 mmol, 3.14 g | [N+](=O)([O-])C=1C=CC(=NC1)C#N | C6H3N3O2
